US07256207B2
A solution of N-Boc-4-fluoroaniline (9.02 g, 42.7 mmol) in THF (112 mL) was cooled to −60° C. using a cryocool instrument. The solution was treated with 1.7 M t-BuLi in pentane (63 mL, 106.7 mmol) dropwise. After the first equivalent of base was consumed, a yellow solution formed. The reaction was allowed to warm to −20° C. and was stirred at that temperature for 2.5 hours. The reaction was then treated with a solution of methallyl bromide (5.67 g, 42.7 mmol) in THF (35 mL) dropwise and stirred for an additional 1.5 hours at −20° C. The reaction was then quenched by addition of water. After coming to room temperature, the reaction was treated with ethyl acetate and extracted with water and brine, dried over MgSO4 and filtered. The solvent was then removed and the residue was purified on silica gel using a gradient of 0-25% ethyl acetate in hexane to afford 11.3 g (80% yield) of [4-Fluoro-2-(2-methyl-allyl)-phenyl]-carbamic acid tert-butyl ester as a white solid; 1H NMR (CDCl3, 400 MHz) δ 1.50 (s, 9H), 1.72 (s, 3H), 3.28 (s, 2H), 4.71 (s, 1H), 4.92 (s, 1H), 6.32-6.50 (m, 1H), 6.86 (dd, 1H, J=3.0, J2=9.1), 6.93 (ddd, 1H, J=3.0, J2=8.5, J3=11.5), 7.65-7.82 (m, 1H); HPLC-MS calcd. for C15H20FNO2 (M+H+-tBu) 210.1, found 210.3.

reactant | N-Boc-4-fluoroaniline | 42.7 mmol, 9.02 g | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)F | C11H14FNO2
reactant | t-BuLi | 1.7 M | [Li]C(C)(C)C
reactant | pentane | 106.7 mmol, 63 mL | CCCCC | C5H12
reactant | methallyl bromide | 42.7 mmol, 5.67 g | C(C(C)=C)Br | C4H7Br
solvent | THF | 112 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | [4-Fluoro-2-(2-methyl-allyl)-phenyl]-carbamic acid tert-butyl ester | 11.3 g, 80% yield | C(C)(C)(C)OC(NC1=C(C=C(C=C1)F)CC(=C)C)=O | C15H20FNO2
